US07435837B2
To a suspension of lithium aluminum hydride (0.114 g, 3.0 mmol) in tetrahydrofuran (30 mL) was added (±)-methyl(5-chloro-7-cyclohexyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (0.65 g, 2.0 mmol) and the reaction mixture was allowed to stir at room temperature for 30 h. The reaction mixture was quenched with saturated ammonium chloride (50 mL), diluted with tetrahydrofuran (70 mL), and the aqueous layer was extracted with tetrahydrofuran (2×50 mL). The combined organic layers were washed with saturated aqueous sodium bicarbonate (100 mL) and saturated aqueous sodium chloride (100 mL), were dried (sodium sulfate), and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, dichloromethane:methanol 97:3) gave a light brown oil. The oil was re-dissolved in tetrahydrofuran (50 mL) and aqueous hydrogen chloride (1 N, 3 mL) was added. The resulting precipitate was filtered and washed with diethyl ether to provide 0.28 g (44%) of (±)-N-[(5-chloro-7-cyclohexyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-N-methylamine as a white solid, hydrochloride salt. mp 125-128° C.; Anal. calcd. for C16H22ClNOHCl: C, 60.76; H, 7.33; N, 4.43. Found: C, 60.92; H, 7.46; N, 4.09.

reactant | lithium aluminum hydride | 3.0 mmol, 0.114 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (±)-methyl(5-chloro-7-cyclohexyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 2.0 mmol, 0.65 g | COC(NCC1OC2=C(C1)C=C(C=C2C2CCCCC2)Cl)=O | C17H22ClNO3
reactant | hydrogen chloride | 1 N, 3 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (±)-N-[(5-chloro-7-cyclohexyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-N-methylamine | 0.28 g, 44% | ClC=1C=C(C2=C(CC(O2)CNC)C1)C1CCCCC1 | C16H22ClNO
